US07947676B2
2-({2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}amino)ethanol
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and ethanolamine to give the title compound in 28% yield; NMR Spectrum: 2.68 (t, 2H), 2.98-3.00 (m, 2H), 3.46-3.49 (m, 2H), 4.36 (t, 2H), 5.29 (s, 2H), 7.23 (d, 1H), 7.37 (t, 1H), 7.54-7.58 (m, 2H), 7.86-7.93 (m, 2H), 8.27 (s, 1H), 8.59 (d, 1H), 8.65 (br s, 1H); Mass Spectrum: 456 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-({2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}amino)ethanol | 28% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCNCCO | C21H22ClN7O3
